US07435526B2
(4) Synthesis of Resin A-48 as p-Hydroxystyrene/t-butyl Acrylate (79/21) Copolymer
By NMR analysis, it was confirmed that the compositional ratio of p-vinylphenol to t-butyl acrylate was 79:21.

reactant | p-vinylphenol | C(=C)C1=CC=C(C=C1)O | C8H8O
reactant | t-butyl acrylate | C(C=C)(=O)OC(C)(C)C | C7H12O2
product | p-Hydroxystyrene t-butyl Acrylate | OC1=CC=C(C=C)C=C1.C(C=C)(=O)OC(C)(C)C | InChI=1S/C8H8O.C7H12O2/c1-2-7-3-5-8(9)6-4-7;1-5-6(8)9-7(2,3)4/h2-6,9H,1H2;5H,1H2,2-4H3
